US07524882B2
A mixture of methyl (2S)-2-ethyl-5-hydroxy-2,3-dihydro-benzofuran-2-carboxylate (0.22 g, 1.0 mmol), prepared in Example 10, Step 2,4-bromo-1-butene (1.35 g, 10 mmol) and Cs2CO3 (1.63 g, 5.0 mmol) in DMF (20 mL) was stirred at 50° C. for 16 hrs. The reaction was diluted with ethyl acetate and washed with water. After removal of the solvent, the reisdue was purified by preparative TLC to give 0.14 g (2S)-5-But-3-enyloxy-2-ethyl-2,3-dihydro-benzofuran-2Carboxylic acid methyl ester.

reactant | methyl (2S)-2-ethyl-5-hydroxy-2,3-dihydro-benzofuran-2-carboxylate | 1.0 mmol, 0.22 g | C(C)[C@@]1(OC2=C(C1)C=C(C=C2)O)C(=O)OC | C12H14O4
reactant | Cs2CO3 | 5.0 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-5-But-3-enyloxy-2-ethyl-2,3-dihydro-benzofuran-2Carboxylic acid methyl ester | 0.14 g | COC(=O)[C@]1(OC2=C(C1)C=C(C=C2)OCCC=C)CC | C16H20O4
